US05756685
N-Carbobenzyloxy-γ-cyano-γ-aminobutyric Acid Ethyl Ester (2)
To a stirred suspension of Cbz-isoglutamine ethyl ester (15.42 g, 50 mmol) and pyridine (8.48 mL, 105 mmol) in 360 mL of anhydrous THF at 0° C. was added dropwise a solution of trifluoroacetic anhydride (7.77 mL, 55 mmol) in 40 mL of THF, at such a rate to maintain a temperature of 0°-5° C. for 1-2 hours or until reaction was complete as evidenced by TLC (5% H2O/94% CH3CN/1% HOAc; Cu(OAc)2 stain.

reactant | Cbz-isoglutamine ethyl ester | 50 mmol, 15.42 g | C(C)OC(CC[C@H](NC(=O)OCC1=CC=CC=C1)C(N)=O)=O | C15H20N2O5
reactant | pyridine | 105 mmol, 8.48 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 55 mmol, 7.77 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | H2O | O | H2O
solvent | THF | 360 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | Cu(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | N-Carbobenzyloxy-γ-cyano-γ-aminobutyric Acid Ethyl Ester | C(C)OC(CCC(NC(=O)OCC1=CC=CC=C1)C#N)=O | C15H18N2O4
